US09373794B2
5) Synthesis of 9,9′-(benzo[b]thiophene-3,5-diyl)bis(9H-carbazole)
In a 250 mL 2-neck round flask, 5 mL of tetrahydrofuran (THF) was poured to carbazole (0.75 g, 4.5 mmol). Then, a 2.5Mn-butyllithium/hexane solution (1.8 ml) was gradually added to the mixture in an ice bath. This mixture solution was stirred at room temperature for minutes, and then 9-(5-chlorobenzothiophen-3-yl)carbazole (1.5 g, 4.5 mmol) and tetrakis(triphenylphosphine)palladium(0) (Pd(pph3)4) (0.024 g) were poured to the mixture solution, the resulting mixture was dissolved in and tetrahydrofuran, and reacted at 80° C. After the reaction, the precipitate was filtered and recrystallized with dichloromethane and methanol, thereby giving 1.71 g of a product (82%).

reactant | carbazole | 4.5 mmol, 0.75 g | C1=CC=CC=2C3=CC=CC=C3NC12 | C12H9N
reactant | 9-(5-chlorobenzothiophen-3-yl)carbazole | 4.5 mmol, 1.5 g | ClC=1C=CC2=C(C(=CS2)N2C3=CC=CC=C3C=3C=CC=CC23)C1 | C20H12ClNS
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.024 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 9,9′-(benzo[b]thiophene-3,5-diyl)bis(9H-carbazole) | 1.71 g, 82% | S1C2=C(C(=C1)N1C3=CC=CC=C3C=3C=CC=CC13)C=C(C=C2)N2C1=CC=CC=C1C=1C=CC=CC21 | C32H20N2S
